US08431563B2
A 250 ml, round-bottomed flask was charged with 3-(tetrahydro-2H-pyran-4-ylmethyl)-2,5-piperazinedione (1.44 g, 6.78 mmol), 50 mL of THF, and lithium aluminum hydride (27.1 mL, 1M in THF, 27.1 mmol). After refluxing for 2 h, the mixture was cooled to room temperature where sodium sulfate decahydrate (10 g) was added. After stirring at room temperature for 1 h, the mixture was filtered and the filtrate was concentrated to give 2-((tetrahydro-2H-pyran-4-yl)methyl)piperazine (0.950 g) as a colorless oil.

reactant | 3-(tetrahydro-2H-pyran-4-ylmethyl)-2,5-piperazinedione | 6.78 mmol, 1.44 g | O1CCC(CC1)CC1C(NCC(N1)=O)=O | C10H16N2O3
reactant | lithium aluminum hydride | 27.1 mmol, 1M, 27.1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | 10 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-((tetrahydro-2H-pyran-4-yl)methyl)piperazine | 0.950 g | O1CCC(CC1)CC1NCCNC1 | C10H20N2O
